US05605899
4-amino-1-phenylmethyl-1H-imidazo[4,5-c]quinoline-2-methanol.
A compound according to claim 1, selected from the group consisting of 2-ethoxymethyl-1-(3-methylbutyl)-1H-imidazo[4,5-c]quinolin-4-amine, 1-butyl-2-methoxyethyl-1H-imidazo[4,5-c]quinolin-4-amine, 1-butyl-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine, and 4-amino-1-butyl-1H-imidazo[4,5-c]quinoline-2-methanol,

reactant | 2-ethoxymethyl-1-(3-methylbutyl)-1H-imidazo[4,5-c]quinolin-4-amine | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCC(C)C | C18H24N4O
reactant | 1-butyl-2-methoxyethyl-1H-imidazo[4,5-c]quinolin-4-amine | C(CCC)N1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C17H22N4O
reactant | 1-butyl-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine | C(CCC)N1C(=NC=2C(=NC=3C=CC=CC3C21)N)COCC | C17H22N4O
reactant | 4-amino-1-butyl-1H-imidazo[4,5-c]quinoline-2-methanol | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCC)CO | C15H18N4O
product | 4-amino-1-phenylmethyl-1H-imidazo[4,5-c]quinoline-2-methanol | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2=CC=CC=C2)CO | C18H16N4O
